US07560546B2
cis-5-Bromo-3-(6-oxa-3-azabicyclo[3.1.0]hex-3-ylsulfonyl)-1H-indole-2-carboxamide
To a stirring suspension of 5-bromo-3-(2,5-dihydroxy-1H-pyrrol-1-ylsulfonyl)-1H-indole-2-carboxamide (10 mg, 0.027 mmol, 1.0 equiv.) in 2 mL of acetone was added m-chloroperoxybenzoic acid (6.5 mg, 0.038 mmol, 1.4 equiv.). After stirring for 3 hours, 3 mL of tetrahydrofuran and m-chloroperoxybenzoic acid (6.5 mg, 0.038 mmol, 1.4 equiv.) were added. After stirring an additional 72 hours, more m-chloroperoxybenzoic acid (13 mg, 0.076 mmol, 2.8 equiv.) was added and, after 3 hours, the solvent was removed in vacuo. The title compound was obtained after purification by preparative reversed phase HPLC. Proton NMR for the product was consistent with the titled compound. ESI+MS: 385.96 [M+H]+.

reactant | 5-bromo-3-(2,5-dihydroxy-1H-pyrrol-1-ylsulfonyl)-1H-indole-2-carboxamide | 0.027 mmol, 10 mg, 1.0 equiv. | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1C(=CC=C1O)O | C13H10BrN3O5S
reactant | m-chloroperoxybenzoic acid | 0.038 mmol, 6.5 mg, 1.4 equiv. | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | m-chloroperoxybenzoic acid | 0.038 mmol, 6.5 mg, 1.4 equiv. | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | m-chloroperoxybenzoic acid | 0.076 mmol, 13 mg, 2.8 equiv. | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | cis-5-Bromo-3-(6-oxa-3-azabicyclo[3.1.0]hex-3-ylsulfonyl)-1H-indole-2-carboxamide | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1C[C@@H]2O[C@@H]2C1 | C13H12BrN3O4S
